US07488848B2
To a solution of 2-hydroxy-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]propionylamino}hexanoic acid cyclopropylamide (590 mg, 1 mmol) in methylene chloride, DMP was added slowly. The reaction mixture was stirred at room temperature for 30 min and then a 0.26 M Na2S2O3 in sat. NaHCO3 was added. The reaction mixture was stirred for 20 min. The aqueous layer was extracted with methylene chloride and the combined organic extracts were dried over MgSO4, filtered and concentrated to give 2-oxo-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(s)-(4-fluorophenyl)ethylamino]-propionylamino}hexanoic acid cyclopropylamide which was purified by flash column (2% MeOH—CH2Cl2) to give pure product as a yellow solid.

reactant | 2-hydroxy-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(S)-(4-fluorophenyl)ethylamino]propionylamino}hexanoic acid cyclopropylamide | 1 mmol, 590 mg | C1(CC1)NC(C([C@H](CCC)NC([C@H](CS(=O)(=O)CC=1C=NC=CC1)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O)O)=O | C26H32F4N4O5S
reactant | Na2S2O3 | 0.26 M | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-oxo-3(S)-{3-(pyridin-3-ylmethanesulfonyl)-2(R)-[2,2,2-trifluoro-1(s)-(4-fluorophenyl)ethylamino]-propionylamino}hexanoic acid cyclopropylamide | C1(CC1)NC(C([C@H](CCC)NC([C@H](CS(=O)(=O)CC=1C=NC=CC1)N[C@H](C(F)(F)F)C1=CC=C(C=C1)F)=O)=O)=O | C26H30F4N4O5S
